US09253997B2
Synthesis of (4S)-4-(N-tert-butoxycarbonylamino)-4-(methylcarbamoyl)butanoic acid
1010 mg (3 mmol) of Boc-Glu (OBzl)-OH, 600 mg (3.2 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 460 mg (3.1 mmol) of 1-hydroxybenzotriazole monohydrate were suspended in 12 ml of DMF, to which 300 μl (2.0 mmol) of a 40% aqueous methylamine solution was added. Following agitation at room temperature overnight, extraction was performed with ethyl acetate/water. The organic layer was washed with saturated saline, and the resultant was added with sodium sulfate for drying. The organic layer was subjected to vacuum condensation, and the resultant residue was dissolved in 10 ml of methanol, added with 100 mg of 10% Pd/C, and then stirred overnight in a hydrogen atmosphere. After the catalyst was filtrated away and the solvent was distilled away, purification step A was used to obtain a crude product of the title compound.

reactant | Boc-Glu (OBzl)-OH | 3 mmol, 1010 mg | CC(C)(C)OC(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)O | C17H23NO6
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.2 mmol, 600 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 3.1 mmol, 460 mg | O.ON1N=NC2=C1C=CC=C2
reactant | methylamine | CN | CH5N
reactant | hydrogen | [H][H] | H2
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | (4S)-4-(N-tert-butoxycarbonylamino)-4-(methylcarbamoyl)butanoic acid | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)O)C(NC)=O | C11H20N2O5
